US05262427
2-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-8-azabicyclo[3.2.1]oct-2-ene hydrochloride
2-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-methyl-8-azabicyclo[3.2.1]oct-2-ene (525 mg, 2.3 mmol) was dissolved in dry dichlorethane (10 ml). The solution was cooled on ice and 1-chloroethyl chloroformate (370 μl, 3.4 mmol was added). The reaction mixture was heated under reflux for 1.5 h and the solvent evaporated. Methanol (20 ml) was added and the mixture heated under reflux for further 1.5 h. The mixture was treated with charcoal, filtered and concentrated in vacuo.

reactant | 2-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-methyl-8-azabicyclo[3.2.1]oct-2-ene | 2.3 mmol, 525 mg | C1(CC1)C1=NOC(=N1)C=1C2(CCC(CC1)N2)C | C13H17N3O
reactant | 1-chloroethyl chloroformate | 3.4 mmol, 370 μl | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichlorethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | 2-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-8-azabicyclo[3.2.1]oct-2-ene hydrochloride | Cl.C1(CC1)C1=NOC(=N1)C=1C2CCC(CC1)N2 | InChI=1S/C12H15N3O.ClH/c1-2-7(1)11-14-12(16-15-11)9-5-3-8-4-6-10(9)13-8;/h5,7-8,10,13H,1-4,6H2;1H
